US06664412B2
Methyl (S)-2-t-butoxycarbonylamino-6-methyl-6-nitroheptanoate
(S)-2-t-Butoxycarbonylamino-6-methyl-6-nitroheptanoic acid (3.90 g, 12.81 mmol) was dissolved in dichloromethane (20 ml) and dimethylformamide dimethylacetal (2.6 ml, 19.22 mmol) was added. The mixture was stirred at room temperature for 20 h. Dimethylformamide dimethylacetal (1.74 ml, 12.8 mmol) was added and the mixture was stirred for 4 h. The mixture was washed with 0.5N hydrochloric acid (30 ml), saturated aqueous sodium hydrogencarbonate solution (30 ml) and saturated brine (30 ml). The solvent was evaporated by concentration under reduced pressure to give the objective compound (2.53 g, yield 62%).

reactant | (S)-2-t-Butoxycarbonylamino-6-methyl-6-nitroheptanoic acid | 12.81 mmol, 3.90 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCCC(C)([N+](=O)[O-])C | C13H24N2O6
reactant | dimethylformamide dimethylacetal | 19.22 mmol, 2.6 ml | COC(N(C)C)OC | C5H13NO2
reactant | Dimethylformamide dimethylacetal | 12.8 mmol, 1.74 ml | COC(N(C)C)OC | C5H13NO2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Methyl (S)-2-t-butoxycarbonylamino-6-methyl-6-nitroheptanoate | 2.53 g, yield 62% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CCCC(C)([N+](=O)[O-])C | C14H26N2O6
